US08227622B2
2-(2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)acetic acid
A stirred mixture of 2-(2-oxopropyl)cyclohexane-1,3-dione (prepared by evaporation of an ethanolic solution to dryness under vacuum) (20.0 g, 119 mmol) and glycine (17.9 g, 238 mmol) in acetic acid (100 mL) was heated under reflux for 1.5 h then allowed to cool to r.t. Water (100 mL) was then added and the mixture evaporated to a thick oil in vacuo. Acetone (200 mL) and water (40 mL) were added to the residue and the mixture stirred for 30 mins at r.t., after which the solid was collected by filtration and the filtrates retained. The solid was slurried with further acetone (100 mL) and water (20 mL) at r.t. then removed by filtration. The combined filtrates were concentrated in vacuo then dissolved in aqueous sodium hydroxide (1M, 200 mL), adding a small amount of 10M sodium hydroxide to bring the pH to 14. After washing with ethyl acetate (2×100 mL), the mixture was acidified by the addition of aqueous hydrochloric acid (5M, 60 mL) then sodium chloride (50 g) was added. After stiffing for 4 h, the solid product was collected by filtration, washed with acetone (2×25 mL) then dried under vacuum at 40° C. to afford the title compound as an orange-brown solid; 7.45 g (30%); purity 99.1 area % by HPLC; m/z: 208 (MH+); 1H-NMR: 13.2 (1H, br s), 6.02 (1H, s), 4.67 (2H, s), 2.65 (2H, t, J=6.2 Hz), 2.29-2.24 (2H, m), 2.10 (3H, s), 2.02-1.95 (2H, m).

reactant | 2-(2-oxopropyl)cyclohexane-1,3-dione | O=C(CC1C(CCCC1=O)=O)C | C9H12O3
reactant | glycine | 238 mmol, 17.9 g | NCC(=O)O | C2H5NO2
reactant | Water | 100 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-(2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)acetic acid | CC=1N(C=2CCCC(C2C1)=O)CC(=O)O | C11H13NO3
